US08541411B2
a) 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxamide
A solution of KOH (45 mg, 0.8 mmol) in water (10 mL) was added dropwise to solution of 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carbonitrile (prepared using the same procedure as Example 24, 150 mg, 0.4 mmol) and 30% H2O2 (3 ml) in THF (15 mL) at rt. The mixture was heated to 35° C. for 1 h. When TLC showed no starting material remaining, water (50 mL) was added, then it was filtered. The filter cake was purified by silica gel chromatography eluted with petroleum ether:EtOAc=1:2 to give the product (115 mg, 72%), as a white solid. 1H NMR (300 MHz, DMSO-d6): δ ppm 2.47 (s, 3H), 3.05 (t, 4H, J=4.8 Hz), 3.69 (t, 4H, J=4.8 Hz), 6.05 (s, 2H), 6.34 (d, 1H, J=7.2 Hz), 7.25 (d, 1H, J=2.4 Hz), 7.34 (t, 1H, J=7.8 Hz), 7.53 (d, 1H, J=2.4 Hz), 7.63-7.70 (m, 2H,), 7.77 (d, 1H, J=3.0 Hz), 7.86 (d, 1H, J=8.1 Hz), 8.01 (d, 1H, J=7.2 Hz), 8.24 (d, 1H, J=8.1 Hz), 9.24 (d, 1H, J=3.0 Hz); LC-MS: m/e=401 [M+1]+

reactant | KOH | 0.8 mmol, 45 mg | [OH-].[K+]
reactant | 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carbonitrile | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C#N)N2CCOCC2 | C24H22N4O
reactant | H2O2 | 3 ml | OO | H2O2
solvent | water | 10 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxamide | 115 mg, 72% | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C(=O)N)N2CCOCC2 | C24H24N4O2
